US07199120B2
N-Isopropyl-2,3-bis[2-(isopropylamino)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-7-amine was prepared by treating 7-chloro-2,3-bis[2-(methylsulfinyl)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine with isopropylamine as described in Example 7. 1H NMR, (CDCl3): δ 8.39 (d, 1H), 8.14 (d, 1H), 7.52 (m, 1H), 7.36 (d, 1H), 6.96 (m, 1H), 6.60 (d, 1H), 6.06 (d, 1H), 5.99 (d, 1H), 5.08 (m, 1H), 4.99 (m, 1H), 4.05–4.25 (m, 2H), 3.80–3.99 (m, 1H), 1.42 (d, 6H), 1.30 (d, 6H), 1.24 (m, 6H); MS m/z 446 (M+1).

reactant | 7-chloro-2,3-bis[2-(methylsulfinyl)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)S(=O)C)C2=NC(=NC=C2)S(=O)C | C17H13ClN6O2S2
reactant | isopropylamine | C(C)(C)N | C3H9N
product | N-Isopropyl-2,3-bis[2-(isopropylamino)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-7-amine | C(C)(C)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC(C)C)C2=NC(=NC=C2)NC(C)C | C24H31N9
